US05928999
4-Chloro-3-(4-cyano-3-nitrophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole (No. If.059)
1.1 g (17 mmol) of potassium cyanide were added to a solution of 5.0 g (15.6 mmol) of 4-chloro-3-(4-fluoro-3-nitrophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole in 70 ml of dimethyl sulfoxide. The mixture was then stirred at 50° C. for 5 hours and at room temperature for 3 days. The reaction mixture was poured into ice-water and then the product was extracted with methyl tert-butyl ether. The ether phase was dried over magnesium sulfate and concentrated. The crude product was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3:1). Yield: 2.7 g.

reactant | potassium cyanide | 17 mmol, 1.1 g | [C-]#N.[K+]
reactant | 4-chloro-3-(4-fluoro-3-nitrophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 15.6 mmol, 5.0 g | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C11H7ClF3N3O3
solvent | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
product | 4-Chloro-3-(4-cyano-3-nitrophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)C#N)[N+](=O)[O-] | C12H7ClF2N4O3
